US04849424
In anhydrous tetrahydrofuran, 149 mg of 4,6-dichloropyrimidine was substituted with 136 mg of pyrazole. The reaction mixture was treated according to the procedure of Example 1 to yield 179 mg of 2,4-bis(1-pyrazolyl)pyrimidine, recrystallized from n-hexane, the compound had a melting point of 152°-153° C.

reactant | 4,6-dichloropyrimidine | 149 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | pyrazole | 136 mg | N1N=CC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,4-bis(1-pyrazolyl)pyrimidine | 179 mg | N1(N=CC=C1)C1=NC=CC(=N1)N1N=CC=C1 | C10H8N6
